US05672611
3-PYRIDYLISOCYANATE, HYDROCHLORIDE
A 1.93 solution of phosgene in toluene (20%) (584 mL) was diluted with dry CH2Cl2 (1 L) and the mixture was stirred at 0° C., under nitrogen atmosphere. A solution of 3-aminopyridine (21.1 grams) and dry pyridine (19 mL) dissolved in dry CH2Cl2 (600 mL) was added dropwise to the stirred solution at 0° C. over a period of 5.5 hours. The mixture was stirred at 0°-25° C. for an additional 48 hours. A stream of nitrogen was passed through the solution to remove most of the phosgene and the solution was then evaporated until almost all of the solvent was removed to give the title compound which was then taken up in dry pyridine (850 mL) to give a stock solution of the title compound.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-aminopyridine | 21.1 grams | NC=1C=NC=CC1 | C5H6N2
reactant | pyridine | 19 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 584 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 3-PYRIDYLISOCYANATE, HYDROCHLORIDE | Cl.N1=CC(=CC=C1)N=C=O | InChI=1S/C6H4N2O.ClH/c9-5-8-6-2-1-3-7-4-6;/h1-4H;1H
